US08420631B2
7-Chloro-6-(5-phenyl-3H-[1,2,3]triazol-4-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Heat 7-chloro-6-phenylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (100 mg, 0.26 mmol) and sodium azide (69 mg, 1.06 mmol) in anhydrous DMSO (5.3 mL) for 5.5 h. Cool the mixture, add brine and extract ten times with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and evaporate onto silica gel. Purify by chromatography on silica gel eluting with hexane/EtOAc (1:0 to 2:3 gradient) to obtain the desired intermediate (43 mg, 39%). MS (ES+) m/z: 421 (M+H)+.

reactant | 7-chloro-6-phenylethynyl-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.26 mmol, 100 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C#CC1=CC=CC=C1 | C20H15ClF3NO
reactant | sodium azide | 1.06 mmol, 69 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 5.3 mL | CS(=O)C | C2H6OS
solvent | brine | [Cl-].[Na+].O
product | 7-Chloro-6-(5-phenyl-3H-[1,2,3]triazol-4-yl)-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 43 mg, 39% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)C=1NN=NC1C1=CC=CC=C1 | C20H16ClF3N4O
